US08729078B2
1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-[4-(1-hydroxy-1-methyl-ethyl)-phenylamino]-1H-pyrazole-4-carbonitrile (78 mg, 0.14 mmol) and dihydrogen tris(dimethylphosphinito)hydroplatinate (7.1 mg, 0.12 eq) were taken up in tetrahydrofuran (3.1 ml) and water (0.31 ml). The material was stirred and heated to reflux (oil bath) for 1 hour. The mixture was cooled to ambient and the volatiles were stripped (rotary evaporator). The crude material was purified by preparative thin layer chromatography (2 plates, eluting first with 7% methanol in methylene chloride and then re-developing with 6% methanol in methylene chloride). The product band was collected, providing desired 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-[4-(1-hydroxy-1-methyl-ethyl)-phenylamino]-1H-pyrazole-4-carboxylic acid amide as a light yellow powder (41 mg). LC/MS calcd for C32H31FN6O4 (m/e) 582.62, obsd 581.0 (M−H, ES−).

reactant | 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-[4-(1-hydroxy-1-methyl-ethyl)-phenylamino]-1H-pyrazole-4-carbonitrile | 0.14 mmol, 78 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C#N)NC1=CC=C(C=C1)C(C)(C)O)C=O | C32H29FN6O3
reactant | tetrahydrofuran | 3.1 ml | O1CCCC1 | C4H8O
solvent | water | 0.31 ml | O | H2O
product | 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-[4-(1-hydroxy-1-methyl-ethyl)-phenylamino]-1H-pyrazole-4-carboxylic acid amide | 41 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C(=O)N)NC1=CC=C(C=C1)C(C)(C)O)C=O | C32H31FN6O4
